US08748348B2
1.7: 2,2,7-trifluoro-6-isocyanato-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one
To 6-amino-2,2,7-trifluoro-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (5.1 g, 19.91 mmol) in dry toluene was dropwise added diphosgene (2.64 ml, 21.90 mmol) in dry toluene. The resulting mixture was stirred overnight at reflux. The mixture was concentrated and chased with toluene and used as such in the next step.

reactant | 6-amino-2,2,7-trifluoro-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | 19.91 mmol, 5.1 g | NC1=CC2=C(OC(C(N2CC#C)=O)(F)F)C=C1F | C11H7F3N2O2
reactant | diphosgene | 21.90 mmol, 2.64 ml | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,2,7-trifluoro-6-isocyanato-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one | FC1(C(N(C2=C(O1)C=C(C(=C2)N=C=O)F)CC#C)=O)F | C12H5F3N2O3
